US05744425
4. Methyl 2-methyl-3-nitro-6-aminobenzoate
49.7 g (0.253 mol) of 2-methyl-3-nitro-6-aminobenzoic acid are dissolved in380 ml of acetone and 43 g (0.51 mol) of sodium hydrogen carbonate are added. The mixture is then heated to boiling until evolution of CO2 is complete. 35.3 g (0.28 mol) of dimethyl sulfate are then added in the course of two hours at the boiling point of acetone to the suspension of the sodium salt of 2-methyl-3-nitro-6-aminobenzoic acid thus obtained, andthe mixture is subsequently refluxed for a further 3 hours and then allowedto cool. After pouring the reaction mixture into 1.8 l of water, it is extracted with methylene chloride. After drying, the organic phase is concentrated. The solid obtained is sufficiently pure for the subsequent reaction (NMR). Yield: 50 g (0.238 mol)=94% of theory, m.p.: 92°-94° C.

reactant | 2-methyl-3-nitro-6-aminobenzoic acid | 0.253 mol, 49.7 g | CC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])N | C8H8N2O4
reactant | sodium hydrogen carbonate | 0.51 mol, 43 g | C(O)([O-])=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
reactant | dimethyl sulfate | 0.28 mol, 35.3 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium | [Na] | Na
solvent | water | 1.8 l | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 2-methyl-3-nitro-6-aminobenzoate | CC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])N | C9H10N2O4
